US07220804B1
Preparation of Bis(Pentamethylcyclopentadienyl)Zirconium Dipivalate
To a solution of bis(pentamethylcyclopentadienyl)zirconium dichloride (0.865 g, 2.001 mmol) and pivalic acid (0.685 g, 6.710 mmol) in toluene (30 ml) at 40° C. was added triethylamine (0.726 g, 7.174 mmol) with stirring. A white precipitate formed immediately which was removed by filtration. The title compound was isolated as an off-white powder in 90% by evaporating the solvent and excess pivalic acid under vacuum at 65° C. The title compound such prepared exhibited purity above 98% based on NMR results. 1H NMR (toluene d8) δ1.83 (s, 30H), 1.30 (s, 18H).

reactant | bis(pentamethylcyclopentadienyl)zirconium dichloride | 2.001 mmol, 0.865 g | [Cl-].[Cl-].CC1=C(C(=C(C1(C)[Zr+2]C1(C(=C(C(=C1C)C)C)C)C)C)C)C
reactant | pivalic acid | 6.710 mmol, 0.685 g | C(C(C)(C)C)(=O)O | C5H10O2
reactant | triethylamine | 7.174 mmol, 0.726 g | C(C)N(CC)CC | C6H15N
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | Bis(Pentamethylcyclopentadienyl)Zirconium Dipivalate | C(C(C)(C)C)(=O)[O-].C(C(C)(C)C)(=O)[O-].CC1=C(C(=C(C1(C)[Zr+2]C1(C(=C(C(=C1C)C)C)C)C)C)C)C | InChI=1S/2C10H15.2C5H10O2.Zr/c2*1-6-7(2)9(4)10(5)8(6)3;2*1-5(2,3)4(6)7;/h2*1-5H3;2*1-3H3,(H,6,7);/q;;;;+2/p-2
